
* .lib "sky130_fd_pr\models\sky130.lib.spice" tt

.subckt TX_Gate vdd vin S nS vout

xM1  vout S vin GND sky130_fd_pr__nfet_01v8 w=.42 l=.5
xM2  vin nS vout vdd sky130_fd_pr__pfet_01v8 w=1 l=.5

.ends TX_Gate